US07989438B2
Step 3: methyl (7R)-7-[(tert-butoxycarbonyl)(2-{2-[{[(tert-butoxycarbonyl)amino]sulfonyl}(methyl)amino]ethoxy}ethyl)amino]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
Chlorosulfonyl isocyanate (1.2 eq) was dissolved in dry DCM (0.2M) and 1.3 eq of a 2M solution of t-BuOH in ether was added at 0° C., after stirring for 1 h a 1 M solution of methyl (7R)-7-((tert-butoxycarbonyl){2-[2-(methylamino)ethoxy]ethyl}amino)-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate (1 eq) and NEt3 (3 eq) in dry DCM was added dropwise, and stirring was continued for 30 min at 0° C. and then at RT for 2 h. All volatiles were evaporated in vacuo and the residue was taken in EtOAc, washed with 1N HCl and brine, dried and concentrated; the crude material was purified by FC (Biotage, gradient of PE/EtOAc 1:1 to 1:3) to afford 40% of the title compound. (ES+) m/z 785 (M+H)+.

reactant | Chlorosulfonyl isocyanate | 1.2 eq | ClS(=O)(=O)N=C=O | CClNO3S
reactant | t-BuOH | CC(C)(C)O | C4H10O
reactant | methyl (7R)-7-((tert-butoxycarbonyl){2-[2-(methylamino)ethoxy]ethyl}amino)-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 1 eq | C(C)(C)(C)OC(=O)N([C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2)CCOCCNC | C35H47N3O6
reactant | NEt3 | 3 eq | CCN(CC)CC | C6H15N
solvent | DCM | 0.2M | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | methyl (7R)-7-[(tert-butoxycarbonyl)(2-{2-[{[(tert-butoxycarbonyl)amino]sulfonyl}(methyl)amino]ethoxy}ethyl)amino]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 40% | C(C)(C)(C)OC(=O)N([C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2)CCOCCN(C)S(=O)(=O)NC(=O)OC(C)(C)C | C40H56N4O10S
